US08633173B2
206 b) [3-(4-Methyl-piperazin-1-yl)-phenyl]-(8-{4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amine was prepared from 2-chloro-8-{4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-[1,2,4]triazolo[1,5-a]pyridine (23.0 mg, 0.0560 mmol) and 3-(4-methylpiperazin-1-yl)aniline (12.0 mg, 0.0627 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (5.0 mg, 0.0091 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a yellow solid (0.014 g, 44%). MP=222-225° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.33 (d, J=6.6 Hz, 1H), 7.96 (d, J=8.3 Hz, 2H), 7.52 (d, J=7.7 Hz, 1H), 7.48 (s, 1H), 7.21 (t, J=7.6 Hz, 1H), 7.03 (d, J=7.9 Hz, 2H), 6.95-6.89 (m, 2H), 6.82 (s, 1H), 6.57 (d, J=8.4 Hz, 1H), 3.86 (d, J=13.2 Hz, 2H), 3.31-3.26 (m, 4H), 2.81 (t, J=12.2 Hz, 2H), 2.70-2.38 (m, 13H), 2.37 (s, 3H), 2.30 (s, 3H), 1.94 (d, J=11.6 Hz, 2H), 1.75-1.63 (m, 2H). MS=566 (MH)+.

reactant | 2-chloro-8-{4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-[1,2,4]triazolo[1,5-a]pyridine | 0.0560 mmol, 23.0 mg | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)N2CCC(CC2)N2CCN(CC2)C)=N1 | C22H27ClN6
reactant | 3-(4-methylpiperazin-1-yl)aniline | 0.0627 mmol, 12.0 mg | CN1CCN(CC1)C=1C=C(N)C=CC1 | C11H17N3
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0091 mmol, 5.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | [3-(4-Methyl-piperazin-1-yl)-phenyl]-(8-{4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amine | CN1CCN(CC1)C=1C=C(C=CC1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)N2CCC(CC2)N2CCN(CC2)C)=N1 | C33H43N9
